US08207164B2
l) [(R)-5-(3-Amino-5-bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
[(R)-5-(3-Bromo-5-nitro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (930 mg, 2.13 mmol) was dissolved in 5 ml methanol. Raney-Nickel was added and the reaction was hydrogenated for 1.5 hrs at r.t. The reaction was filtered over Celite, washed with dichloromethane/methanol (9/1). Volatiles were removed under reduced pressure yielding the title compound as white solid.

reactant | [(R)-5-(3-Bromo-5-nitro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 2.13 mmol, 930 mg | C(C)(C)(C)OC(NC=1COC[C@@](N1)(C)C1=CC(=CC(=C1)[N+](=O)[O-])Br)=O | C16H20BrN3O5
solvent | methanol | 5 ml | CO | CH4O
catalyst | Raney-Nickel | [Ni] | Ni
product | [(R)-5-(3-Amino-5-bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COC[C@@](N1)(C)C1=CC(=CC(=C1)Br)N)=O | C16H22BrN3O3
